US06890940B2
Under nitrogen, tetrakis(triphenylphosphine)palladium (504.6 mg, 0.437 mmol) and a 2.0 M aqueous sodium carbonate (25 mL, 50 mmol) were added to a solution of 2-bromo-5-nitropyridine (2.87 g, 14.1 mmol) and 3,4,5-trimethoxyphenylboronic acid (3.00 g, 14.2 mmol) in ethanol-toluene (1:5, 90 mL), and the resulting mixture was stirred at 70° C. for 12 hours. Water was added to the reaction mixture, and the aqueous layer was extracted with ethyl acetate. The organic layers were combined, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel and crude crystals were obtained. The crude crystals were recrystallized from chloroform-hexane to provide 5-nitro-2-(3,4,5-trimethoxyphenyl)pyridine as yellow needles (melting point: 134.0-136.5° C. )(3.31 g, yield: 81%).

reactant | sodium carbonate | 50 mmol, 2.0 M, 25 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-bromo-5-nitropyridine | 14.1 mmol, 2.87 g | BrC1=NC=C(C=C1)[N+](=O)[O-] | C5H3BrN2O2
reactant | 3,4,5-trimethoxyphenylboronic acid | 14.2 mmol, 3.00 g | COC=1C=C(C=C(C1OC)OC)B(O)O | C9H13BO5
catalyst | tetrakis(triphenylphosphine)palladium | 0.437 mmol, 504.6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Water | O | H2O
product | 5-nitro-2-(3,4,5-trimethoxyphenyl)pyridine | 3.31 g, yield: 81% | [N+](=O)([O-])C=1C=CC(=NC1)C1=CC(=C(C(=C1)OC)OC)OC | C14H14N2O5
